Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Abacavir Sulfate / Aspirin / fluconazole / levetiracetam / 
morphine
 
Attending: ___.
 
Chief Complaint:
diarrhea/ fevers
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ F with pmhx: AIDS (CD4 24 ___, depression, HTN, 
Seizures. presents with fever and diarrhea. Said she was 
constipated for ___ days. Had fever on ___ to 100.4. Then 
developed abdominal pain ___. with some constipation. She took 
castor oil for constipation and overnight had 4 episodes of 
watery diarrhea. On ___ she had ___ episodes of watery 
diarrhea. Nausea. No vomiting. Improved abdominal pain. In the 
ED exam was noted as benign, UA, CXR, stool samples were 
ordered, but she had no bowel movement. In the setting of low 
CD4 count the ED discussed with ID who advised a low threshold 
for treating for infectious diarrhea while stool studies 
pending.  
In the ED, initial vitals were:  
5 100.0 125 128/81 16 100% ra  
- Labs were significant for  
135 101 28  
-------------<97  
3.4 24 1.8  
3.5 11.4 127  
33.3  
N:55 Band:0 ___ M:21 E:1 Bas:2 Atyps: 2  
The patient was given 2L IVF and cipro/flagyl  
Vitals prior to transfer were:  
98.5 90 138/71 18 100% RA  
Upon arrival to the floor,  
Patient was sleeping comfortably complained of minimal abdominal 
pain, no BM since earlier on ___ she reported 3 loose watery 
stools, no blood. no recent sick contacts, no pets at home and 
no travel.  

 
Past Medical History:
- AIDS (resistant disease - followed by ID, Dr. ___
-- CD4 nadir 8 in ___, improved to 77 in ___
-- CD4 20 ___
-- HIV Viral Load in ___ - 159,154 copies/ml
-- Opportunistic infections: esophageal candidiasis
-- CIN II-III s/p LEEP procedure
-- several mutations listed in OMR problem list
- Depression
- Gastritis secondary to H. Pylori
- Nephrolithiasis
- Cervical spondylosis
- Migraines
- Excision of left wrist ganglion cyst ___
- Genital and vaginal condyloma
- Left carpal tunnel syndrome
- S/p open cholecystectomy
- H/o right sided Bell's palsy
- H/o diverticulitis with microperforation (patient is not clear 
of this history)

 
Social History:
___
Family History:
Mother alive with a history of hypertension. Father deceased 
from stroke. Three sisters and six brothers alive. No children.

 
Physical Exam:
EXAM ON ADMISSION:
-------------------
Vitals: 99.3 128/54 p 86 R 20 100% on RA  
General: WDF in NAD sleeping in bed  
HEENT: OP clear not lesions noted  
NECK: supple, no JVD  
Heart: RRR ___ SEM at ___  
Lungs: CTAB  
Abdomen: soft mild ttp in mid epigastrium  
Extremities: WWP no edema  
Neurological: A+Ox3 MAE  

EXAM ON DISCHARGE:
-------------------
VS - Tmax 98.5, HR 69-90, BP ___ 100%RA  
General: Well-appearing, in NAD sitting up in bed  
HEENT: OP clear no lesions noted  
NECK: supple, no JVD  
Heart: RRR ___ SEM at ___  
Lungs: CTAB  
Abdomen: hyperactive BS, soft, nontender, non-distended, no 
dullness to percussion, no evidence of masses or organomegaly  
Extremities: WWP no edema  
Neurological: A+Ox3 MAE  

 
Pertinent Results:
LABS ON ADMISSION:
-------------------

___ 09:00PM   WBC-3.5* RBC-3.93* HGB-11.4* HCT-33.3* MCV-85 
MCH-29.0 MCHC-34.2 RDW-15.2
___ 09:00PM   NEUTS-55 BANDS-0 ___ MONOS-21* EOS-1 
BASOS-2 ATYPS-2* ___ MYELOS-0
___ 09:00PM   HYPOCHROM-OCCASIONAL ANISOCYT-OCCASIONAL 
POIKILOCY-NORMAL MACROCYT-NORMAL MICROCYT-NORMAL 
POLYCHROM-OCCASIONAL
___ 09:00PM   PLT SMR-LOW PLT COUNT-127*
___ 08:59PM   LACTATE-1.1
___ 09:00PM   ALT(SGPT)-42* AST(SGOT)-139* ALK PHOS-128* 
TOT BILI-0.2
___ 09:00PM   LIPASE-81*

LABS AT DISCHARGE:
-------------------

___ 06:45AM BLOOD WBC-3.3* RBC-3.81* Hgb-11.2* Hct-33.3* 
MCV-88 MCH-29.4 MCHC-33.5 RDW-15.8* Plt ___
___ 06:45AM BLOOD Glucose-89 UreaN-14 Creat-1.4* Na-139 
K-3.6 Cl-104 HCO3-26 AnGap-13
___ 06:45AM BLOOD ALT-26 AST-57* AlkPhos-94 TotBili-0.3
___ 06:45AM BLOOD Calcium-8.8 Phos-3.2 Mg-1.8

MICRO DATA:
------------
___ 11:48 am STOOL     CONSISTENCY: WATERY      Source: 
Stool. 

   MICROSPORIDIA STAIN (Pending): 

   CYCLOSPORA STAIN (Final ___:    NO CYCLOSPORA SEEN. 

   C. difficile DNA amplification assay (Final ___: 
      Negative for toxigenic C. difficile by the Illumigene DNA
      amplification assay. 
           (Reference Range-Negative). 

   FECAL CULTURE (Final ___:    NO SALMONELLA OR SHIGELLA 
FOUND. 

   CAMPYLOBACTER CULTURE (Final ___:    NO CAMPYLOBACTER 
FOUND. 

   OVA + PARASITES (Final ___: 
      NO OVA AND PARASITES SEEN. 
      . 
      This test does not reliably detect Cryptosporidium, 
Cyclospora or
      Microsporidium. While most cases of Giardia are detected 
by routine
      O+P, the Giardia antigen test may enhance detection when 
organisms
      are rare. 

   FECAL CULTURE - R/O VIBRIO (Final ___:    NO VIBRIO 
FOUND. 

   FECAL CULTURE - R/O E.COLI 0157:H7 (Final ___: 
      NO E.COLI 0157:H7 FOUND. 

   Cryptosporidium/Giardia (DFA) (Final ___: 
      NO CRYPTOSPORIDIUM OR GIARDIA SEEN. 

BLOOD CULTURES NEGATIVE TO DATE

 
Brief Hospital Course:
___ with AIDS CD4 count of 24 on HAART and history of 
diverticulitis presents with fever abdominal pain and diarrhea 
for the last three days.  

#Diarrhea/abdominal pain/fevers: She has not had a bowel 
movement since ___, but given her immunosuppression and 
history of fever she is at risk for oppurtunistic infections 
including MAC, CMV, or typical bacterial infectious diarrhea. 
Diarrhea is acute, and given the desription of large-volume, 
watery, it may be more consistent with a small-bowel issue. Low 
CD4 puts her at increased risk for cryptosporidium, MAC, 
isospora, microsporidium, CMV and giardia, however, her diarrhea 
improved and her fevers resolved. She has had no recent HAART 
medication changes. Also, given low CD4, inflitrative diseases 
such as Kaposi and lymphoma should remain on the ddx, though 
less likely, given acuity. Additionally she has known multiple 
colonic diverticuli and she may have developed diverticulitis, 
however she had no further fevers during this hospitalization 
and her abdominal exam was benign and inconsistent with 
diverticulitis. Stool studies were negative to date; blood 
culture was also negative to date and we discontinued empiric 
cipro/flagyl per ID recommendations on consultation, given that 
her diarrhea and fevers resolved and clinically she looked so 
well.  She was discharged with close ID follow-up.
 
#HIV/AIDS: CD4 of 24 on ___ we continued darunavin stribild, 
as well as azithromycin and atovaquone ppx given CD4 count. 

___: mild Cr elevation likely in the setting of poor po intake 
a fluid lossess from diarrhea is s/p IVF In ED. Cr initially 
improved with IVF, however, then plateaued at a value of 1.4 
which was above her baseline of 0.8. Urine lytes yielded a FeNa 
of 2.2%, with granular casts on her urine sediment,  suggestive 
of ATN in the setting of dehydration. She had good urine output 
and was discharged with outpatient labs to be done the week 
following didscharge for a creatinine check.
  
# Transaminitis: Improved. This was a new problem for her, ratio 
of elevation is most consistent with alcholic hepatocellular 
damage, however, she denies etoh. Could also be from infectious 
illness which is being worked up as above. In an immune 
suppressed patient with diarrhea and elevated transaminases and 
Alkphos, it is improtant to consider MAC, however, given her 
clinical picture, this was thought to be less likely.  
 
# Anemia: normocytic anemia with normal RDW that appears to be 
at baseline since ___, likely secondary to chronic disease. 
Tbili normal and no evidence of schistocytes, so hemolysis from 
an infectious process less likely. This remained stable 
throughout her admission.
  
# Monocytosis: Resolved. not uncommon in the setting of 
inflammatory states and AI conditions and corticosteroid 
exposure. Also known to accompany conditions associated with 
neutropenia, thought to be compensatory. Infectiuons may also be 
associated with moncytosis. Monocytosis may also be seen in 
certain malignancies, such as lymphomas.  

****TRANSITIONAL ISSUES****
- patient discharged with a Creatinine of 1.4 (from high of 
1.8), which is above a recent baseline of 0.8. FeNa and urine 
sediment with granular casts. She was discharged with a script 
to have a creatinine checked shortly after discharge for close 
follow-up. PCP should receive these results and follow-up. If 
still elevated, she may benefit from Renal evaluation
- Question of non-adherence to HAART and prophylactic abx should 
be addressed, given low CD4 count. She was counseled in house on 
the importance of taking her medications to prevent 
opportunistic infections.
- Microsporidia stain and blood cultures pending
- Full code

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atovaquone Suspension 1500 mg PO DAILY 
2. Azithromycin 600 mg PO 2X/WEEK (WE,SA) 
3. Darunavir 800 mg PO DAILY 
4. Stribild 1 TAB PO DAILY 
5. Prochlorperazine 5 mg PO DAILY PRN nausea 
6. Triamcinolone Acetonide 0.1% Cream 1 Appl TP BID 
7. camphor-menthol 0.5 % topical bid:prn 
8. Ensure (food supplemt, lactose-reduced) 1 can oral daily 

 
Discharge Medications:
1. Atovaquone Suspension 1500 mg PO DAILY 
2. Azithromycin 600 mg PO 2X/WEEK (WE,SA) 
3. Darunavir 800 mg PO DAILY 
4. Prochlorperazine 5 mg PO DAILY PRN nausea 
5. Stribild 1 TAB PO DAILY 
6. camphor-menthol 0.5 % topical bid:prn 
7. Ensure (food supplemt, lactose-reduced) 1 can oral daily 
8. Triamcinolone Acetonide 0.1% Cream 1 Appl TP BID 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES:
------------------
- acute diarrhea
- HIV/ AIDS
- acute kidney injury

SECONDARY DIAGNOSES:
--------------------
- Hypertension
- Depression

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you during your hospital stay 
at ___. You came in because you 
were having diarrhea and fevers at home. While in the hospital, 
your diarrhea resolved and you had no fevers. Your kidney was 
also found to be not working as well and it will be important 
that you have your kidney function tested (a blood test) in one 
week (you will be given a prescription with the results should 
be faxed to your PCP).

 Please be sure to take all of your medications as prescribed 
and keep your follow-up appointments. We wish you the very best.

Sincerely,
Your ___ Team
 
Followup Instructions:
___